US07700641B2
Synthesis of 6-bromo-1′-pentylspiro[1-benzofuran-3,3′-indol]-2′(1′H)-one
Following the procedure as described in EXAMPLE 1.22, and making non-critical variations using 3-(4-bromo-2-hydroxyphenyl)-3-(hydroxymethyl)-1-pentyl-1,3-dihydro-2H-indol-2-one to replace 4,7-dichloro-3-(6-hydroxy-1,3-benzodioxol-5-yl)-3-(hydroxymethyl)-1-pentyl-1,3-dihydro-2H-indol-2-one, the title compound was obtained in 82% yield as a colorless solid: 1H NMR (300 MHz, CDCl3) δ 7.33 (td, 1H), 7.15-7.14 (m, 2H), 7.04 (dd, 1H), 6.96-6.90 (m, 2H), 6.56 (d, 1H), 4.95 (d, 1H), 4.69 (d, 1H), 3.89-3.64 (m, 2H), 1.80-1.68 (m, 2H), 1.43-1.34 (m, 4H), 0.92 (t, 3H); 13C NMR (75 MHz, CDCl3) 6176.6, 161.6, 142.5, 132.1, 129.1, 128.4, 124.4, 123.9, 123.3, 122.8, 114.1, 108.8, 80.4, 57.6, 40.4, 29.0, 27.1, 22.3, 14.0; MS (ES+) m/z 386.3 (M+1), 388.3 (M+1).

reactant | 3-(4-bromo-2-hydroxyphenyl)-3-(hydroxymethyl)-1-pentyl-1,3-dihydro-2H-indol-2-one | BrC1=CC(=C(C=C1)C1(C(N(C2=CC=CC=C12)CCCCC)=O)CO)O | C20H22BrNO3
reactant | 4,7-dichloro-3-(6-hydroxy-1,3-benzodioxol-5-yl)-3-(hydroxymethyl)-1-pentyl-1,3-dihydro-2H-indol-2-one | ClC1=C2C(C(N(C2=C(C=C1)Cl)CCCCC)=O)(CO)C1=CC2=C(OCO2)C=C1O | C21H21Cl2NO5
product | 6-bromo-1′-pentylspiro[1-benzofuran-3,3′-indol]-2′(1′H)-one | 82% yield | BrC1=CC2=C(C=C1)C1(C(N(C3=CC=CC=C13)CCCCC)=O)CO2 | C20H20BrNO2
